US06716843B2
(S)-N-[5-Amino-6-oxo-(1-pyrrolidinyl)-hexyl]-methane-sulphonamide
Starting from (S)-N6-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-lysine, methane-sulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Steps A to C of Example 3.

reactant | (S)-N6-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-lysine | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C19H28N2O6
reactant | methane-sulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[5-Amino-6-oxo-(1-pyrrolidinyl)-hexyl]-methane-sulphonamide | N[C@@H](CCCCNS(=O)(=O)C)C(=O)N1CCCC1 | C11H23N3O3S
